US09255110B2
Di-tert-butyldicarbonate (1.37 g, 6.28 mmol) was added to a solution of 3-amino-2-naphthol (0.5 g, 3.14 mmol) in tetrahydrofuran (15 mL) and the resulting mixture was stirred at room temperature for 62 hours. The reaction mixture was then partitioned between water and ethyl acetate; the aqueous layer was separated and extracted twice with ethyl acetate. The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified on a silica gel plug (hexane/EtOAc, 80/20) to give a brown solid which was washed twice with hexane to give 0.69 g (85% yield) of (3-hydroxy-naphthalen-2-yl)-carbamic acid tert-butyl ester as a gray solid.

reactant | Di-tert-butyldicarbonate | 6.28 mmol, 1.37 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-amino-2-naphthol | 3.14 mmol, 0.5 g | NC=1C(=CC2=CC=CC=C2C1)O | C10H9NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (3-hydroxy-naphthalen-2-yl)-carbamic acid tert-butyl ester | 0.69 g, 85% yield | C(C)(C)(C)OC(NC1=CC2=CC=CC=C2C=C1O)=O | C15H17NO3
